US03966765
p-Nitrophenyl 4-(1-pyrrolidinyl)-2H-1-benzothiopyran-3-carboxylate 1,1-Dioxide
A solution of 6.0 g (0.06 mol) of phosgene in 55 ml of benzene was diluted with 30 ml of tetrahydrofuran and cooled to -10°. To this was added over a period of 30 min, a solution of 12.6 g (0.05 mol) of 4-(1-pyrrolidinyl)-2H-1-benzothiopyran 1,1-dioxide and 10 ml of triethylamine in 400 ml of tetrahydrofuran and the reaction mixture was stirred at room temperature for 3 hr. It was cooled to -40° and a solution of 7.7 g (0.055 mol) of p-nitrophenol and 12 ml of triethylamine in 50 ml of tetrahydrofuran was added. The mixture was stirred at room temperature for 16 hr, refluxed for 3 hr, and most of the solvent was evaporated. It was treated with ice-water and extracted ith dichloromethane. The dried dichloromethane phase was evaporated to an oily residue which became a gummy semisolid on trituration with several portions of ether. This gum was dissolved in dichloromethane. Slow distillation resulted in the crystallization of 13.0 g of product, mp 171°-174° dec. Recrystallization from a mixture of 250 ml of tetrahydrofuran and 250 ml of isopropyl ether gave 10.7 g of material, mp 175°-178° dec.

reactant | phosgene | 0.06 mol, 6.0 g | C(=O)(Cl)Cl | CCl2O
reactant | 4-(1-pyrrolidinyl)-2H-1-benzothiopyran 1,1-dioxide | 0.05 mol, 12.6 g | N1(CCCC1)C1=CCS(C2=C1C=CC=C2)(=O)=O | C13H15NO2S
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | p-nitrophenol | 0.055 mol, 7.7 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 55 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | p-Nitrophenyl 4-(1-pyrrolidinyl)-2H-1-benzothiopyran-3-carboxylate 1,1-Dioxide | 13.0 g | N1(CCCC1)C1=C(CS(C2=C1C=CC=C2)(=O)=O)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C20H18N2O6S
